US07081546B2
Preparation of (S)-6-chloro-5-hydroxy-3-oxo-hexanoic acid t-butylester
Zinc dust (690 mg), tetrahydrofuran (4.0 mL), and methanesulfonic acid (10 mg) were introduced into a reaction vessel and the mixture was stirred under reflux. To the mixture was added (S)-4-chloro-3-trimethylsilanyloxybutyronitrile (1.00 g) and subsequently t-butylbromoacetate (2.04 g) over 1 hour. The mixture was stirred under reflux for 30 minutes, and cooled to 0° C. Aqueous 3 N hydrochloric acid solution was added dropwise until the acidity of the reaction solution became pH 4, and the reaction solution was stirred for 3 hours. After the completion of reaction, tetrahydrofuran was distilled off under reduced pressure, and the residue was extracted with ethyl acetate and purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=⅓, v/v) to give the title compound in a yield of 87% (1.07 g).

reactant | methanesulfonic acid | 10 mg | CS(=O)(=O)O | CH4O3S
reactant | (S)-4-chloro-3-trimethylsilanyloxybutyronitrile | 1.00 g | ClC[C@H](CC#N)O[Si](C)(C)C | C7H14ClNOSi
reactant | t-butylbromoacetate | 2.04 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | hydrochloric acid | 3 N | Cl | ClH
catalyst | Zinc | 690 mg | [Zn] | Zn
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | (S)-6-chloro-5-hydroxy-3-oxo-hexanoic acid t-butylester | yield of 87% | C(C)(C)(C)OC(CC(C[C@@H](CCl)O)=O)=O | C10H17ClO4
